US05389626
6(a) Diphenylmethyl 3-(4-bromophenoxy)methyl-7-phenoxyacetamido-3-cephem-4-carboxylate
The procedure described in Example 1(a) was repeated, but using 2.00 g of diphenylmethyl 3-hydroxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate and p-bromophenol, to afford 420 mg of the title compound as a powder.

reactant | diphenylmethyl 3-hydroxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate | 2.00 g | OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(COC2=CC=CC=C2)=O)=O | C29H26N2O6S
reactant | p-bromophenol | C1=CC(=CC=C1O)Br | C6H5BrO
product | Diphenylmethyl 3-(4-bromophenoxy)methyl-7-phenoxyacetamido-3-cephem-4-carboxylate | 420 mg | BrC1=CC=C(OCC=2CS[C@H]3N(C2C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C(C3NC(COC3=CC=CC=C3)=O)=O)C=C1 | C35H29BrN2O6S
